US08293744B2
Step 2: Preparation of ethyl [(4-iodophenyl)methyl]-4-oxo-1,4-dihydrothieno[3,2-c]pyridazine-3-carboxylate:
Ethyl(2Z)-3-(3-fluoro-2-thienyl)-2-hydrazono-3-oxopropanoate (5.73 g, 23.5 mmol) and 4-iodobenzylbromide (7.31 g, 24.6 mmol, 1.05 equiv) were dissolved in degassed N,N-dimethylformamide (47 mL) and cooled to 0° C. Sodium hydride (1.03 g, 25.8 mmol, 1.1 equiv, 60% dispersion in mineral oil) was added portionwise over 30 minutes and was stirred for an additional 2 hours at 0° C. Additional sodium hydride (1.03 g, 25.8 mmol, 1.1 equiv, 60% dispersion in mineral oil) was added and the mixture was stirred at 0° C. for an additional 1 hour. The mixture was carefully treated with sodium bicarbonate (5 mL, aqueous saturated) and then poured into sodium bicarbonate (200 mL, aqueous saturated) and water (250 mL). The aqueous layer was treated with ethyl acetate (400 mL), upon which a thick precipitate formed. The mixture was filtered and the solid was collected and dried in vacuo, providing the titled compound. The filtrate (organic and aqueous) was extracted with ethyl acetate (2×400 mL) and the combined organic extracts were washed with brine (50 mL), dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 1:100; hexanes:ethyl acetate), providing additional titled compound.

reactant | Ethyl(2Z)-3-(3-fluoro-2-thienyl)-2-hydrazono-3-oxopropanoate | 23.5 mmol, 5.73 g | FC1=C(SC=C1)C(/C(/C(=O)OCC)=N/N)=O | C9H9FN2O3S
reactant | 4-iodobenzylbromide | 24.6 mmol, 7.31 g, 1.05 equiv | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | Sodium hydride | 25.8 mmol, 1.03 g, 1.1 equiv | [H-].[Na+]
reactant | sodium hydride | 25.8 mmol, 1.03 g, 1.1 equiv | [H-].[Na+]
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 47 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 250 mL | O | H2O
product | ethyl [(4-iodophenyl)methyl]-4-oxo-1,4-dihydrothieno[3,2-c]pyridazine-3-carboxylate | IC1=CC=C(C=C1)CN1N=C(C(C2=C1C=CS2)=O)C(=O)OCC | C16H13IN2O3S
